US08106211B2
41.57 g (256.6 mmol) of 2-chloro-5-chloromethylpyridine, 20.80 g (256.6 mmol) of 2,2-difluoroethane-1-amine and 35.8 ml (256.6 mmol) of triethylamine in 500 ml of acetonitrile are stirred at 45° C. for 21 hours. The reaction mixture is concentrated under reduced pressure and the residue is then taken up in 1 N aqueous hydrochloric acid and the mixture is washed with ethyl acetate. The aqueous phase is made alkaline using 2.5 N aqueous sodium hydroxide solution and extracted repeatedly with ethyl acetate. Concentration of the organic phase under reduced pressure gives 28.6 g (53% of theory) of N-[(6-chloropyridin-3-yl)methyl]-2,2-difluoroethane-1-amine.

reactant | 2-chloro-5-chloromethylpyridine | 256.6 mmol, 41.57 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2,2-difluoroethane-1-amine | 256.6 mmol, 20.80 g | FC(CN)F | C2H5F2N
reactant | triethylamine | 256.6 mmol, 35.8 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | N-[(6-chloropyridin-3-yl)methyl]-2,2-difluoroethane-1-amine | 28.6 g, 53% | ClC1=CC=C(C=N1)CNCC(F)F | C8H9ClF2N2
